US05952511
(RS)-1-Benzyl-3-((4-methylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one
(RS)-1-Benzyl-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one was dissolved in 15 ml of dry N,N-dimethylformamide, and 0.080 g of 1-hydroxybenzotriazole, 0.1 ml of diisopropylethylamine, 0.111 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, and 0.065 g of p-toluidine were successively added to the solution. The mixture was stirred for 6 hours and concentrated. The concentrate was diluted with ethyl acetate and washed successively with dilute hydrochloric acid and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (chloroform/ethyl acetate=4/1) to give 0.350 g (57%) of the title compound as a white powder.

reactant | (RS)-1-Benzyl-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)O)=O | C25H23N3O4
reactant | 1-hydroxybenzotriazole | 0.080 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.111 g | Cl.C(C)N=C=NCCCN(C)C
reactant | p-toluidine | 0.065 g | NC1=CC=C(C=C1)C | C7H9N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (RS)-1-Benzyl-3-((4-methylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.350 g, 57% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C)=O | C32H30N4O3
